US05025036
A solution of 1.8 g of 4-[6-(2,3-dimethoxyphenyl)hexyloxy]-3,5-dipropylbenzoic acid ethyl ester in 100 mL of methanol and 20 mL of 1N sodium hydroxide was stirred at reflux for 3 hours. Workup as in Example 24 gave 4-[6-(2,3-dimethoxyphenyl)hexyloxy]-3,5-dipropylbenzoic acid, mp 61°-65°.

reactant | 4-[6-(2,3-dimethoxyphenyl)hexyloxy]-3,5-dipropylbenzoic acid ethyl ester | 1.8 g | C(C)OC(C1=CC(=C(C(=C1)CCC)OCCCCCCC1=C(C(=CC=C1)OC)OC)CCC)=O | C29H42O5
solvent | methanol | 100 mL | CO | CH4O
solvent | sodium hydroxide | 1N, 20 mL | [OH-].[Na+]
product | 4-[6-(2,3-dimethoxyphenyl)hexyloxy]-3,5-dipropylbenzoic acid | COC1=C(C=CC=C1OC)CCCCCCOC1=C(C=C(C(=O)O)C=C1CCC)CCC | C27H38O5
